US07589232B2
Step a) Formation of methyl (4-{[(4-dec-1-ynylbenzyl)amino]methyl}phenoxy)acetate
The title compound was prepared following the procedure A using 4-dec-1-ynylbenzaldehyde, methyl [4-(aminomethyl)phenoxy]acetate, acetate salt and DIEA (1 eq.) (purification by flash chromatography on SiO2, DCM/MeOH 95:5) as a pale yellow oil (63%). M+ (ESI): 422.2. HPLC, Rt: 4.3 min (purity: 96.4%). 1H NMR (CDCl3) δ: 7.37 (d, J=8.3 Hz, 2H), 7.28 (m, 4H), 6.88 (d, J=8.6 Hz, 2H), 4.63 (s, 2H), 3.78 (m, 7H), 2.40 (t, J=7.0 Hz, 2H), 1.61 (m, 2H), 1.44 (m, 2H), 1.30 (brs, 8H), 0.90 (t, J=6.8 Hz, 3H).

reactant | 4-dec-1-ynylbenzaldehyde | C(#CCCCCCCCC)C1=CC=C(C=O)C=C1 | C17H22O
reactant | methyl [4-(aminomethyl)phenoxy]acetate, acetate salt | C(C)(=O)O.NCC1=CC=C(OCC(=O)OC)C=C1
reactant | DIEA | 1 eq. | CCN(C(C)C)C(C)C | C8H19N
product | methyl (4-{[(4-dec-1-ynylbenzyl)amino]methyl}phenoxy)acetate | C(#CCCCCCCCC)C1=CC=C(CNCC2=CC=C(OCC(=O)OC)C=C2)C=C1 | C27H35NO3
